### PR TITLE
[Merged by Bors] - feat: matrices with fixed determinant

### PR DESCRIPTION
**Pull request by CBirkbeck**
Define the set of matrices with fixed determinant and give then an action by SL(2, ZZ).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 1]
```diff
@@ -0,0 +1,56 @@
...
+
+import Mathlib.LinearAlgebra.Matrix.SpecialLinearGroup
+
+/-!
+# Matrices with fixed determinant
+
+This file defines the type of matrices with fixed determinant `m` and proves some basic results
+about them.
+
+Note: Some of this was done originally in Lean 3 in the kbb repository, so credit to those authors.
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:15]: If you're going to credit, please link the repo or name the authors

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 2]
```diff
@@ -0,0 +1,56 @@
...
+  cases A; cases B
+  congr
+
+@[ext]
+lemma ext (m : R) {A B : FixedDetMatrices n R m} (h : ∀ i j , A.1 i j = B.1 i j) : A = B := by
+  apply ext'
+  ext i j
+  apply h
+
+instance (m : R) : HSMul (SpecialLinearGroup n R) (FixedDetMatrices n R m)
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:37]: Can this not be a plain `SMul`?

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 3]
```diff
@@ -0,0 +1,56 @@
...
+This file defines the type of matrices with fixed determinant `m` and proves some basic results
+about them.
+
+Note: Some of this was done originally in Lean 3 in the kbb repository, so credit to those authors.
+-/
+
+variable (n : Type*) [DecidableEq n] [Fintype n] (R : Type*) [CommRing R]
+
+/--The set of matrices with fixed determinant `m`. -/
+def FixedDetMatrices (m : R) := { A : Matrix n n R // A.det = m }
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:21]: Would `FixedDetMatrix` not be more in line with other types?

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 4]
```diff
@@ -490,4 +490,10 @@ theorem T_mul_apply_one (g : SL(2, ℤ)) : ↑ₘ(T * g) 1 = ↑ₘg 1 := by
 theorem T_inv_mul_apply_one (g : SL(2, ℤ)) : ↑ₘ(T⁻¹ * g) 1 = ↑ₘg 1 := by
   simpa using T_pow_mul_apply_one (-1) g
 
+lemma S_mul_S_eq : (↑ₘS * ↑ₘS) = -1 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:493]: Does this belong here?

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:37]: when I do this I get the following error which I dont know how to fix: 

```
function expected at
  SMul (SpecialLinearGroup n R) (FixedDetMatrices n R m)
term has type
  Type (max u_2 u_1)
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 4 above)
Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:493]: I thought this was the natural place to put it since it where there are other results about S and T, but I'm happy to move it if you think there's a better file to put it in.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 5]
```diff
@@ -0,0 +1,57 @@
...
+
+@[ext]
+lemma ext (m : R) {A B : FixedDetMatrix n R m} (h : ∀ i j , A.1 i j = B.1 i j) : A = B := by
+  apply ext'
+  ext i j
+  apply h
+
+instance (m : R) : HSMul (SpecialLinearGroup n R) (FixedDetMatrix n R m)
+    ((FixedDetMatrix n R m)) :=
+{ hSMul := fun g A => ⟨g * A.1, by simp only [det_mul, SpecialLinearGroup.det_coe, A.2, one_mul]⟩}
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:40]:
```suggestion
instance (m : R) : SMul (SpecialLinearGroup n R) (FixedDetMatrix n R m) where
  smul g A := ⟨g * A.1, by simp only [det_mul, SpecialLinearGroup.det_coe, A.2, one_mul]⟩
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 6]
```diff
@@ -0,0 +1,57 @@
...
+
+lemma smul_def (m : R) (g : SpecialLinearGroup n R) (A : (FixedDetMatrix n R m)) : g • A =
+    ⟨g * A.1, by simp only [det_mul, SpecialLinearGroup.det_coe, A.2, one_mul]⟩ := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:43]:
```suggestion
lemma smul_def (m : R) (g : SpecialLinearGroup n R) (A : (FixedDetMatrix n R m)) :
    g • A = ⟨g * A.1, by simp only [det_mul, SpecialLinearGroup.det_coe, A.2, one_mul]⟩ :=
  rfl
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 7]
```diff
@@ -0,0 +1,57 @@
...
+
+instance (m : R) : MulAction (SpecialLinearGroup n R) (FixedDetMatrix n R m) where
+  smul := fun g A => g • A
+  one_smul := by intro b; rw [smul_def]; simp only [coe_one, one_mul, Subtype.coe_eta]
+  mul_smul := by
+      intro x y b
+      simp_rw [smul_def, ← mul_assoc]
+      rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:51]:
```suggestion
instance (m : R) : MulAction (SpecialLinearGroup n R) (FixedDetMatrix n R m) where
  one_smul b := by rw [smul_def]; simp only [coe_one, one_mul, Subtype.coe_eta]
  mul_smul x y b := by simp_rw [smul_def, ← mul_assoc, coe_mul]
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 4 above)
Comment (Ruben-VandeVelde) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:493]: Hm, not sure why I thought it could go elsewhere. Never mind.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+namespace FixedDetMatrix
+
+open ModularGroup Matrix SpecialLinearGroup MatrixGroups
+
+lemma ext' (m : R) {A B : FixedDetMatrix n R m} (h : A.1 = B.1) : A = B := by
+  cases A; cases B
+  congr
+
+@[ext]
+lemma ext (m : R) {A B : FixedDetMatrix n R m} (h : ∀ i j , A.1 i j = B.1 i j) : A = B := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:33]: I'm curious if there's a particular reason to make `m` explicit here.

Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:33]: Ah good point, fixed!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 9]
```diff
@@ -0,0 +1,55 @@
...
+variable (n : Type*) [DecidableEq n] [Fintype n] (R : Type*) [CommRing R]
+
+/--The set of matrices with fixed determinant `m`. -/
+def FixedDetMatrix (m : R) := { A : Matrix n n R // A.det = m }
+
+namespace FixedDetMatrix
+
+open ModularGroup Matrix SpecialLinearGroup MatrixGroups
+
+/--Extensionality theorem for FixedDetMatrix with respect to the underlying matrix, not
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:28]:
```suggestion
/--Extensionality theorem for `FixedDetMatrix` with respect to the underlying matrix, not
```

**Review by jcommelin — COMMENTED** [review]
bors d+
